US08198269B2
(1) Synthesis of (±)-(3aR*,7aS*)-7a-(2,2-difluorobenzo[1,3]dioxol-4-yl)hexahydropyrano[3,4-c]isoxazole
THF (2.0 ml) was added to a solution of 4-bromo-2,2-difluoro-1,3-benzodioxol (1.96 g) in toluene (20 ml). The mixture was cooled to −78° C., and a solution of (±)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole obtained in Preparation Example 1-(2) (500 mg) in toluene-THF (10:1) (10 ml) and a boron trifluoride-diethyl ether complex (990 μl) were added dropwise at the same time. After stirring at the same temperature for two hours, an ammonium chloride solution was added to terminate the reaction. The aqueous layer was extracted with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography to obtain the title compound (873 mg).

reactant | THF | 2.0 ml | C1CCOC1 | C4H8O
reactant | 4-bromo-2,2-difluoro-1,3-benzodioxol | 1.96 g | BrC1=CC=CC=2OC(OC21)(F)F | C7H3BrF2O2
reactant | (±)-3,3a,4,5-tetrahydro-7H-pyrano[3,4-c]isoxazole | N=1OCC2C1COCC2 | C6H9NO2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene THF | 10 ml | C1(=CC=CC=C1)C.C1CCOC1
product | (±)-(3aR*,7aS*)-7a-(2,2-difluorobenzo[1,3]dioxol-4-yl)hexahydropyrano[3,4-c]isoxazole | 873 mg | FC1(OC2=C(O1)C=CC=C2[C@@]21NOC[C@@H]2CCOC1)F | C13H13F2NO4
